US07906645B2
(2R)-1-(tert-Butoxycarbonyl)-4-(2-methylprop-2-en-1-yl)piperazine-2-carboxylic acid
(2R)-1-(tert-Butoxycarbonyl)-4-(prop-2-yn-1-yl)piperazine-2-carboxylic acid used in Route E1 was prepared using the procedure described for (2R)-1-(tert-butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid above but using prop-2-ynyl bromide.

reactant | (2R)-1-(tert-Butoxycarbonyl)-4-(prop-2-yn-1-yl)piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC#C)C(=O)O | C13H20N2O4
reactant | (2R)-1-(tert-butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C)C)C(=O)O | C13H24N2O4
reactant | prop-2-ynyl bromide | C(C#C)Br | C3H3Br
product | (2R)-1-(tert-Butoxycarbonyl)-4-(2-methylprop-2-en-1-yl)piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC(=C)C)C(=O)O | C14H24N2O4
